US08895647B2
N,N′-Dibutyl-6-chloro-N,N′-bis-(2,2,6,6-tetramethyl-1-propoxy-piperidin-4-yl)-[1,3,5]triazine-2,4-diamine (I-103)
A four-necked round-bottom flask equipped with a mechanical stirrer, thermocouple, dropping funnel and condenser is charged with 27.3 g (0.148 mol) of cyanuric chloride and 200 mL of xylene at 0-5° C. 40 g (0.148 mol) of compound I-102 in 25 mL of xylene are slowly added over 20 minutes to this solution. After 90 minutes, further 40 g (0.148 mol) of compound I-102 in 25 mL of xylene and 25 mL of water are slowly added over 20 minutes to the system allowing the temperature to reach 45° C.

reactant | cyanuric chloride | 0.148 mol, 27.3 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | n-Butyl-(2,2,6,6-tetramethyl-1-propoxy-piperidin-4-yl)-amine | C(CCC)NC1CC(N(C(C1)(C)C)OCCC)(C)C | C16H34N2O
solvent | xylene | 25 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 25 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 25 mL | O | H2O
solvent | xylene | 200 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N,N′-Dibutyl-6-chloro-N,N′-bis-(2,2,6,6-tetramethyl-1-propoxy-piperidin-4-yl)-[1,3,5]triazine-2,4-diamine | C(CCC)N(C1=NC(=NC(=N1)N(C1CC(N(C(C1)(C)C)OCCC)(C)C)CCCC)Cl)C1CC(N(C(C1)(C)C)OCCC)(C)C | C35H66ClN7O2
